US07687531B2
At room temperature, 100 ml of concentrated hydrochloric acid were added dropwise over a period of 20 min to a suspension of 220 g (0.855 mol) of ethyl 3-(N′-benzylidene-N-methylhydrazino)2-cyanoacrylate (XVI-1) in 1000 ml of ethanol. The mixture was then heated at the boil for 1 hour. After removal of the solvent, the oily residue was triturated with gentle heating with 200 ml of diethyl ether, resulting in the precipitation of a solid. Filtration with suction gave 149 g (95% of theory) of ethyl 3-amino-1-methyl-1H-pyrazole-4-carboxylate [logP (pH 2.3)=0.72].

reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | ethyl 3-(N′-benzylidene-N-methylhydrazino)2-cyanoacrylate | 0.855 mol, 220 g | C(C1=CC=CC=C1)=NN(C)C=C(C(=O)OCC)C#N | C14H15N3O2
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | ethyl 3-amino-1-methyl-1H-pyrazole-4-carboxylate | 149 g, pH 2.3, 95% | NC1=NN(C=C1C(=O)OCC)C | C7H11N3O2
